US04788304
(C) 2-(1-Fluoro-5-phenylpentyl)-2-oxiranecarboxylic acid methyl ester (isomer A)
To a solution of 2.44 g (15 mmol; 2.01 ml) of diethylaminosulfur trifluoride in 50 ml of methylene chloride cooled to -78° C. under a nitrogen atmosphere is added dropwise a solution of 2.00 (7.6 mmol) of 2-[1-hydroxy-5-phenylpentyl]-2-oxiranecarboxylic acid methyl ester (isomer A) in 50 ml of methylene chloride over 30 minutes. The mixture is stirred at -78° C. for 90 minutes and then is allowed to come to room temperature. The mixture is stirred at room temperature for 1.5 hours, is quenched with a saturated aqueous solution of sodium bicarbonate and is extracted with ethyl ether. The combined ethereal extracts are dried over magnesium sulfate, filtered and rotoevaporated. The resulting oil is purified chromatographically (silica gel; hexane:ethyl acetate (9:1)) to give 1.19 g of the title compound (Rf 0.54 in hexane:ethyl ether (3:2)): IR (neat) γ1750 cm-1 ; NMR (CDCl3) δ1.40-1.96 (6H, m), 2.64 (2H, t, J=8 Hz), 3.07 (1H, dd, J=4, 6 Hz), 3.15 (1H, d, J=6 Hz), 3.79 (3H, s), 5.14 (1H, ddd, JHF =49 Hz, J=10, 3 Hz), 7.21 (2H, d, J=8 Hz) and 7.31 (2H, d, J=8 Hz).

reactant | diethylaminosulfur trifluoride | 15 mmol, 2.01 ml, 2.44 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 2-[1-hydroxy-5-phenylpentyl]-2-oxiranecarboxylic acid methyl ester | COC(=O)C1(OC1)C(CCCCC1=CC=CC=C1)O | C15H20O4
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(1-Fluoro-5-phenylpentyl)-2-oxiranecarboxylic acid methyl ester | 1.19 g | COC(=O)C1(OC1)C(CCCCC1=CC=CC=C1)F | C15H19FO3
